US04730005
(a) 2-(7-Bromoheptyl)benzoic acid
Diisopropylamine (61.8 ml, 441 mmoles) was dissolved in tetrahydrofuran (200 ml) and cooled to 0° C. in an ice-methanol bath while stirring under argon. A 2.6 M solution of n-butyllithium in hexane (170 ml, 441 mmoles) was added dropwise. Toluic acid (30.0 g, 221 mmoles) was then added and the reaction immediately turned a deep red color. This mixture was added slowly to a solution of 1,6-dibromohexane (84 ml, 551 mmoles) in tetrahydrofuran (200 ml) at 0° C. Following the addition, the ice bath was removed and the reaction mixture was stirred at room temperature under argon for 18 hours. The solvent was evaporated and the residue dissolved in ether. The ether was extracted with cold 1 N sodium hydroxide solution. The pH of the aqueous phase was adjusted to 8.0 with cold concentrated hydrochloric acid and extracted with ether. The ether extract was dried over anhydrous magnesium sulfate, filtered and evaporated to afford the desired product.

reactant | Diisopropylamine | 441 mmoles, 61.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 441 mmoles, 170 ml | CCCCCC | C6H14
reactant | Toluic acid | 221 mmoles, 30.0 g | CC=1C=CC=CC1C(=O)O | C8H8O2
reactant | 1,6-dibromohexane | 551 mmoles, 84 ml | BrCCCCCCBr | C6H12Br2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(7-Bromoheptyl)benzoic acid | BrCCCCCCCC1=C(C(=O)O)C=CC=C1 | C14H19BrO2
